US07141574B2
(E)-3-(4-Amino-phenyl)-2-methyl-acrylic acid methyl ester
α-Methyl-4-nitrocinnamic acid (53 mg, 0.25 mmol) was dissolved in EtOAc and MeOH and a solution of CH2N2 in Et2O was added until a persistent yellow color was observed. A couple of drops of AcOH were added to destroy the excess CH2N2. The mixture was diluted with EtOAc and the organic layer was washed with H2O, aqueous NaOH (1N) and brine, dried over anhydrous MgSO4 and concentrated to dryness. The residue was re-dissolved in EtOH (2 mL), SnCl22H2O (289 mg, 1.28 mmol) was added and the reaction mixture was heated to reflux for 1 h. The mixture was cooled to RT, diluted with EtOAc and quenched by the addition of aqueous, saturated NaHCO3. The organic layer was separated, washed with brine, dried over anhydrous MgSO4 and concentrated to dryness to give the title compound (40 mg) as a yellow solid.

reactant | α-Methyl-4-nitrocinnamic acid | 0.25 mmol, 53 mg | CC(C(=O)O)=CC1=CC=C(C=C1)[N+](=O)[O-] | C10H9NO4
reactant | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Et2O | CCOCC | C4H10O
catalyst | AcOH | A couple of drops | CC(=O)O | C2H4O2
product | (E)-3-(4-Amino-phenyl)-2-methyl-acrylic acid methyl ester | 40 mg | COC(\C(=C\C1=CC=C(C=C1)N)\C)=O | C11H13NO2
